US04083979
4-(3-Acetylsulfamoyl-4-chloro-phenyl)-3-ethyl-2-(2-methoxypropylimino)-1,3-thiazolidine-4ol-hydrobromide
3.7 g (0.01 mol) of 3'-acetylsulfamoyl-2-bromo-4'-chloroacetophenone are stirred at 20° C during 24 hours in 20 ml of ethyl acetate with 1.8 g (1.01 mol) of 1-ethyl-3-(2-methoxypropyl)thiourea, 60 ml of ether are added and the amorphous oily precipitate is solidified by trituration after under 40 ml of ether decanting the solvent. Amorphous solid substance capable of flowing, decomposition starting at 65° C.

reactant | 3'-acetylsulfamoyl-2-bromo-4'-chloroacetophenone | 0.01 mol, 3.7 g | C(C)(=O)NS(=O)(=O)C=1C=C(C=CC1Cl)C(CBr)=O | C10H9BrClNO4S
reactant | 1-ethyl-3-(2-methoxypropyl)thiourea | 1.01 mol, 1.8 g | C(C)NC(=S)NCC(C)OC | C7H16N2OS
reactant | ether | 60 ml | CCOCC | C4H10O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3-Acetylsulfamoyl-4-chloro-phenyl)-3-ethyl-2-(2-methoxypropylimino)-1,3-thiazolidine-4ol-hydrobromide | Br.C(C)(=O)NS(=O)(=O)C=1C=C(C=CC1Cl)C1(N(C(SC1)=NCC(C)OC)CC)O | InChI=1S/C17H24ClN3O5S2.BrH/c1-5-21-16(19-9-11(2)26-4)27-10-17(21,23)13-6-7-14(18)15(8-13)28(24,25)20-12(3)22;/h6-8,11,23H,5,9-10H2,1-4H3,(H,20,22);1H
